US08067445B2
Step 3: Difluoro-(2′-formyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid
Prepared according to the procedure described in Example 1, Step 4, using the following starting materials: difluoro-[4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester and 2-bromo-5-(trifluoromethyl)benzaldehyde; the ester was hydrolyzed under the reaction conditions.

reactant | difluoro-[4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester | C(C)OC(C(C1=CC(=C(C=C1)OC)B1OC(C(O1)(C)C)(C)C)(F)F)=O | C17H23BF2O5
reactant | 2-bromo-5-(trifluoromethyl)benzaldehyde | BrC1=C(C=O)C=C(C=C1)C(F)(F)F | C8H4BrF3O
product | Difluoro-(2′-formyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid | FC(C(=O)O)(C=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)C=O)F | C17H11F5O4
